US04196216
(10) [(α-methyl-4-chlorobenzylidene amino)oxy] acetic acid methyl ester.
Of the (α-methyl-4-chlorobenzylidene amino)oxy acetonitrile (melting point 57° C.-58.5° C.) which was obtained by reacting the sodium salt of 4'-chloroacetophenone oxime, with chloroacetonitrile in dimethylformamide, an amount of 11.3 g was dissolved in diisopropyl ether in which 1.94 g of hydrogen chloride and 1.73 g of methanol had also been dissolved. The solution was diluted with 25 ml of diisopropyl ether and subsequently stirred over night. Then the precipitate was drawn off, washed with absolute ether and dried in a vacuum. The resulting hydrochloride of methyl (α-methyl-4-chlorobenzylidene amino)oxy acetimidate melted at 95° C. with decomposition. After this substance had been dissolved in water, the superscribed ester separated out from the solution. It was extracted with ether and distilled in a vacuum. Boiling point at a pressure of 0.1 mm: 130° C.-132° C.

reactant | (α-methyl-4-chlorobenzylidene amino)oxy acetonitrile | CC(C1=CC=C(C=C1)Cl)=NOCC#N | C10H9ClN2O
reactant | sodium | [Na] | Na
reactant | 4'-chloroacetophenone oxime | ClC1=CC=C(C=C1)C(C)=NO | C8H8ClNO
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
reactant | hydrogen chloride | 1.94 g | Cl | ClH
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 25 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 1.73 g | CO | CH4O
product | [(α-methyl-4-chlorobenzylidene amino)oxy] acetic acid methyl ester | COC(CON=C(C1=CC=C(C=C1)Cl)C)=O | C11H12ClNO3
